US04704464
N-Benzyloxycarbonyl-(L)-Phenylalanine Isopropylamide
20 mmoles (5.99 grams) of N-benzyloxycarbonyl-(L)-phenylalanine and 24 mmoles (2.76 grams) of N-hydroxysuccinimide were dissolved in 30 ml of chloroform and treated under ice cooling and stirring with 22 mmoles (4.54 grams) of dicyclohexylcarbodiimide dissolved in about 10 ml of chloroform. After 10 minutes stirring at room temperature there were added 20 mmoles (1.71 ml) of isopropylamine. After 24 hours the precipitate formed was filtered off and the filtrate washed successively with 20 ml of dilute hydrochloric acid, saturated NaHCO3 solution and water. The waxy residue obtained after drying over sodium sulfate and distilling off the solvent was recrystallized with ethyl acetate/petroleum ether. Colorless, crystalline material.

reactant | N-benzyloxycarbonyl-(L)-phenylalanine | 20 mmoles, 5.99 grams | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | N-hydroxysuccinimide | 24 mmoles, 2.76 grams | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 22 mmoles, 4.54 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | isopropylamine | 20 mmoles, 1.71 ml | C(C)(C)N | C3H9N
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | about 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-Benzyloxycarbonyl-(L)-Phenylalanine Isopropylamide | C(C)(C)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C20H24N2O3
